data/mechanism_extracts/JOC/10.1021_acs.joc.3c00015.json
{"doi": "10.1021_acs.joc.3c00015", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular amino- and oxysulfonylation of alkenes with sodium sulfinates affording sulfonylated O- and N-heterocycles (THFs, THPs, oxepanes, pyrrolidines, piperidines, δ-valerolactones)", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sodium sulfinate (RSO2Na) at the carbon anode generates a sulfonyl radical; subsequent anodic oxidation of the benzylic radical intermediate generates a benzylic carbocation; cathode reduces protons to H2", "key_intermediates": [{"name": "sulfonyl radical (RSO2•)", "smiles": "[O]S(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "benzylic carbon-centered radical after sulfonyl addition to alkene", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation after second anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "cyclized sulfonylated heterocycle (final product)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes sulfinate to sulfonyl radical, which adds to the alkene to give a benzylic radical; the anode further oxidizes this radical to a benzylic cation, which is trapped intramolecularly by the pendant O- or N-nucleophile; protons are reduced at the Pt cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction of S1 strongly inhibited; P1 formed in only 30% yield and a DPE-sulfonyl adduct (P70) detected by GC-MS, supporting sulfonyl radical intermediate"}, {"name": "cyclic voltammetry of S1, S47, S63 vs p-tolylsulfinate", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks of unsaturated alcohol S1 (~1.60 V), N-tosyl amine S47 (~1.65 V), and carboxylic acid S63 (~1.50 V) are higher than p-tolylsulfinate (~1.2 V), indicating sulfinate is oxidized first under electrolysis"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "DPE was used as a radical trap (analogous role to TEMPO/BHT) rather than a typical persistent radical scavenger. Mechanism is supported by CV ordering of oxidation potentials and trapping evidence; no DFT, KIE, or isotope labeling reported. The benzylic cation pathway (radical–polar crossover) is favored over a direct radical cyclization."}
